US07241791B2
4-(1-benzyl-6-hydroxy-1H-indazol-3-yl)benzene-1,3-diol
A mixture of 2,2′,4,4′-tetrahydroxybenzophenone (0.123 g, 0.5 mmol), sodium acetate (0.164 g, 2.0 mmol) and benzylhydrazine dihydrochloride (0.39 g, 2.0 mmol) in 2 mL H2O was heated at 90° C. overnight. The cooled reaction mixture was partitioned with EtOAc and 1 N HCl. The organic layer was dried (Na2SO4) and concentrated in vacuo to give the crude product. The residue was purified by HPLC chromatography using a silica gel column 150×12 mm (Biotage) at 10 mL/min with methyl-t-butyl ether/hexane (1:3, v/v) to give 0.062 g of product as an amber solid.

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 0.5 mmol, 0.123 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | sodium acetate | 2.0 mmol, 0.164 g | C(C)(=O)[O-].[Na+]
reactant | benzylhydrazine dihydrochloride | 2.0 mmol, 0.39 g | Cl.Cl.C(C1=CC=CC=C1)NN
solvent | H2O | 2 mL | O | H2O
product | 4-(1-benzyl-6-hydroxy-1H-indazol-3-yl)benzene-1,3-diol | 0.062 g | C(C1=CC=CC=C1)N1N=C(C2=CC=C(C=C12)O)C1=C(C=C(C=C1)O)O | C20H16N2O3
